US04410730
Using diphenylaminoborane dichloride (200 mg), benzaldehyde (85 mg) and tri-n-butylamine (147 mg), the reaction is effected as in Example 7, whereby 2-phenylaminobenzhydrol (49 mg) is obtained. This substance is recrystallized from benzene-hexane to give crystals melting at 111° to 112° C. Anal. Calcd. for C19H17ON: C, 82.88; H, 6.62; N, 5.09. Found: C, 82.67; H, 6.28; N, 5.03.

reactant | diphenylaminoborane dichloride | 200 mg | [Cl-].[Cl-].C1(=CC=CC=C1)N(C1=CC=CC=C1)B
reactant | benzaldehyde | 85 mg | C(C1=CC=CC=C1)=O | C7H6O
reactant | tri-n-butylamine | 147 mg | C(CCC)N(CCCC)CCCC | C12H27N
product | 2-phenylaminobenzhydrol | 49 mg | C1(=CC=CC=C1)NC1=C(C(C2=CC=CC=C2)O)C=CC=C1 | C19H17NO
